US04797483
Preparation of 4-hydroxy-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide
A mixture of 74.3 g (0.25 mol) of isopropyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide and 25.7 g (0.32 mol) of 2-aminopyridine in 2,700 ml of xylene is maintained under reflux for 20 hours. During this time, approximately one third of the solvent is distilled off and is replaced, and finally the mixture is distilled to a final volume of 1,500 ml. The mixture is cooled to 0°-5° C. and filtered and the product washed with xylene. By crystallization with dichloroethane, 63 g (75%) of a crystalline white product, m.p. 198°-200° C. are obtained.

reactant | isopropyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | 0.25 mol, 74.3 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC(C)C | C13H15NO5S
reactant | 2-aminopyridine | 0.32 mol, 25.7 g | NC1=NC=CC=C1 | C5H6N2
solvent | xylene | 2,700 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C15H13N3O4S
